US05504238
The above procedure is repeated except that hydrolysis of the tetraphenyl orthocarbonate is effected by adding to a solution of 10.5 grams of phenol in 4.0 ml. of 0.1N aqueous sulfuric acid. The reaction is complete within two hours. An excellent yield of diphenyl carbonate is obtained and no significant by-products are formed.

reactant | tetraphenyl orthocarbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C25H20O4
reactant | phenol | 10.5 grams | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | 0.1N | S(O)(O)(=O)=O | H2O4S
product | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
